US07226951B2
4-Iodo-cinnamic acid
A solution of ethyl-4-iodo-cinnamate (3.2 g, 10.5 mmol) in methanol (25 mL), tetrahydrofuran (25 ml) and water (15 mL) was treated with lithium hydroxide monohydrate (4.2 g, 100 mmol) and the resulting reaction mixture was stirred at ambient temperature over 2 days. The volatiles were evaporated in vacuo and the residue was neutralized with saturated aqueous ammonium chloride solution. The precipitated solid was filtered, washed with water and hexane and dried to afford the title product as a white solid (2.9 g, 91%). It was used as such for the next step.

reactant | ethyl-4-iodo-cinnamate | 10.5 mmol, 3.2 g | C(C)OC(C=CC1=CC=C(C=C1)I)=O | C11H11IO2
reactant | lithium hydroxide monohydrate | 100 mmol, 4.2 g | O.[OH-].[Li+]
solvent | methanol | 25 mL | CO | CH4O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | water | 15 mL | O | H2O
product | 4-Iodo-cinnamic acid | 2.9 g, 91% | IC1=CC=C(C=CC(=O)O)C=C1 | C9H7IO2
